US07935815B2
Synthesis of N-(5-bromo-3-methoxypyridin-2-yl)formamide
Iron (67.3 g) and ammonium chloride (129 g) were added to a solution of 5-bromo-3-methoxy-2-nitropyridine (56.0 g, CAS: 152684-26-9) in ethanol (500 mL) and water (200 mL). The reaction solution was stirred at 80 to 90° C. for one hour and then left to cool to room temperature. The reaction solution was filtered through celite and washed with ethanol. Then, the filtrate was concentrated under reduced pressure. The residue was diluted with ethyl acetate and water, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was diluted with THF (84 mL). The THF solution was added dropwise to a mixed solution of formic acid (78.1 mL) and acetic anhydride (78.3 mL) at room temperature. Then, the reaction solution was stirred for one hour. Ice water (500 mL) was added to the reaction solution, and the precipitated crystals were collected by filtration. The crystals were washed with water and then air-dried. The crystals were recrystallized from toluene to obtain 34.1 g of the title compound. The property value of the compound is as follows.

reactant | ammonium chloride | 129 g | [Cl-].[NH4+]
reactant | 5-bromo-3-methoxy-2-nitropyridine | 56.0 g | BrC=1C=C(C(=NC1)[N+](=O)[O-])OC | C6H5BrN2O3
reactant | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
catalyst | Iron | 67.3 g | [Fe] | Fe
product | N-(5-bromo-3-methoxypyridin-2-yl)formamide | 34.1 g | BrC=1C=C(C(=NC1)NC=O)OC | C7H7BrN2O2
